US05877200
To a stirred solution of d,1-phenylalanine (4.17 g, 25.0 mmol) and sodium carbonate (2.78 g, 26.25 mmol) in 50 mL of water is added N-carboethoxyphthallmde (5.65 g, 25.0 mmol). The resulting slurry is stirred for 1.5 hour and filtered. The pH of the filtrate is adjusted to 1-2 with 4N hydrochloric acid with stirring. After 20 minutes, the slurry is refiltered and the solid washed with water. The solid is dried in vacuo (60° C., <1 mm) to afford 5.44 g (74%) of 2-phthalimido-3-phenylpropionic acid as a white powder: mp 165°-169° C.; 1H NMR (DMSO-d6, 250 M Hz) δ 12.5(br s, 1H), 7.84(s, 4H), 7.23-7.06 (m, 5H), 5.13 (dd, 1H, J=5.0), 3.26-3.05 (m, 2H); 13C NMR (250 MHz, DMSO-d6) δ 170.0, 167.0, 137.2, 134.8, 130.6, 128.6, 128.2, 126.5, 123.3, 52.8, 33.8. Anal. Calculated for C17H13NO4. Theoretical: C, 69.15; H, 4.44; N, 4.74. Found: C, 69.07; H, 4.34; N, 4.78.

reactant | d,1-phenylalanine | 25.0 mmol, 4.17 g | NC(CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | sodium carbonate | 26.25 mmol, 2.78 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 50 mL | O | H2O
product | 2-phthalimido-3-phenylpropionic acid | 5.44 g, 74% | C1(C=2C(C(N1C(C(=O)O)CC1=CC=CC=C1)=O)=CC=CC2)=O | C17H13NO4
